US07902181B2
b) (1R,2R)-1-Amino-2-phenylcyclopropanecarboxylic Acid Hydrochloride
A mixture of (1R,2R)-methyl 1-amino-2-phenylcyclopropanecarboxylate (14 mg), water (4 mL) and hydrochloric acid (37% w/v, 6 mL) was heated under reflux for 6 h. The mixture was evaporated to dryness, triturated with diethyl ether and the solid collected and dried to give the subtitle compound (14 mg) as a colourless solid.

reactant | (1R,2R)-methyl 1-amino-2-phenylcyclopropanecarboxylate | 14 mg | N[C@]1([C@H](C1)C1=CC=CC=C1)C(=O)OC | C11H13NO2
reactant | hydrochloric acid | 6 mL | Cl | ClH
solvent | water | 4 mL | O | H2O
product | (1R,2R)-1-Amino-2-phenylcyclopropanecarboxylic Acid Hydrochloride | 14 mg | Cl.N[C@]1([C@H](C1)C1=CC=CC=C1)C(=O)O | InChI=1S/C10H11NO2.ClH/c11-10(9(12)13)6-8(10)7-4-2-1-3-5-7;/h1-5,8H,6,11H2,(H,12,13);1H/t8-,10-;/m1./s1
